.subckt abc2dqo Va Vb Vc Vd Vo Vq
V1 SinT 0 SINE(0 1 50)
V2 SinTMinus 0 SINE(0 1 50 0 0 -120)
V3 SinTPlus 0 SINE(0 1 50 0 0 120)
V4 CosT 0 SINE(0 1 50 0 0 90)
V5 CosTMinus 0 SINE(0 1 50 0 0 -30)
V6 CosTPlus 0 SINE(0 1 50 0 0 210)
R1 SinT 0 1k
R2 SinTMinus 0 1k
R3 SinTPlus 0 1k
R4 CosT 0 1k
R5 CosTMinus 0 1k
R6 CosTPlus 0 1k
B§Vd1 Vd 0 V=0.816496581*(V(CosT)*V(Va)+V(CosTMinus)*V(Vb)+V(CosTPlus)*V(Vc))
B§Vq1 Vq 0 V=0.816496581*(V(SinT)*V(Va)+V(SinTMinus)*V(Vb)+V(SinTPlus)*V(Vc))
B§Vo1 Vo 0 V=0.816496581*(0.7071*V(Va)+0.7071*V(Vb)+0.7071*V(Vc))
R7 Vd 0 1k
R8 Vq 0 1k
R9 Vo 0 1k
R10 Va 0 1k
R11 Vb 0 1k
R12 Vc 0 1k
.ends abc2dqotest
