* C:\users\frank\My Documents\notes\2020-2021\EMandPE\LTSpice\dqoabc\Draft1.asc
Vr N001 0 SINE(0 1 50)
Vs N003 0 SINE(0 1 50 0 0 120)
Vt N005 0 SINE(0 1 50 0 0 240)
L1 N001 N002 1mH
L2 N003 N004 1mH
L3 N005 N006 1mH
R3 N006 0 10
R2 N004 0 10
R1 N002 0 10
L4 N006 0 100mH
L5 N004 0 100mH
L6 N002 0 100mH
* Line inductance
.tran 200m startup uic
.backanno
.end
