* DQO To ABC Transformer
.subckt dqo2abc Vd Vo Vq Va Vb Vc
V1 SinT 0 SINE(0 1 50)
V2 SinTMinus 0 SINE(0 1 50 0 0 -120)
V3 SinTPlus 0 SINE(0 1 50 0 0 120)
V4 CosT 0 SINE(0 1 50 0 0 90)
V5 CosTMinus 0 SINE(0 1 50 0 0 -30)
V6 CosTPlus 0 SINE(0 1 50 0 0 210)
R1 SinT 0 1k
R2 SinTMinus 0 1k
R3 SinTPlus 0 1k
R4 CosT 0 1k
R5 CosTMinus 0 1k
R6 CosTPlus 0 1k
B§Va1 Va 0 V=0.816496581*(V(CosT)*V(Vd)+V(SinT)*V(Vq)+0.7071*V(Vo))
B§Vb1 Vb 0 V=0.816496581*(V(CosTMinus)*V(Vd)+V(SinTMinus)*V(Vq)+0.7071*V(Vo))
B§Vc1 Vc 0 V=0.816496581*(V(CosTPlus)*V(Vd)+V(SinTPlus)*V(Vq)+0.7071*V(Vo))
R7 Va 0 1k
R8 Vb 0 1k
R9 Vc 0 1k
R10 Vd 0 1k
R11 Vq 0 1k
R12 Vo 0 1k
.ends dqoabc

