* C:\users\frank\My Documents\notes\2020-2021\EMandPE\LTSpice\dqoabc\dqoabc4.asc
XU1 N008 0 N010 N004 N005 N009 dqo2abc
XU2 N011 N013 N012 N014 N015 N016 abc2dqo
V1 N003 0 SINE(0 1 50 0 0 330)
V2 N002 0 SINE(0 1 50 0 0 210)
V3 N001 0 SINE(0 1 50 0 0 90)
R2 0 N013 1
R3 0 N012 1
R4 0 N011 1
L1 VrLoad N011 10mH
L2 N006 N012 10mH
L3 N007 N013 10mH
V4 N008 0 0
L7 N001 VrLoad 1mH
L8 N002 N006 1mH
L9 N003 N007 1mH
Vcontrol N010 0 1
L4 N004 VrLoad 1mH
L5 N005 N006 1mH
L6 N009 N007 1mH
.tran 20 startup uic
.lib dqo2abc.lib
.lib abc2dqo.lib
.backanno
.end
